US04914207
1-(2'-[o-Methoxyphenyl]thiazol-4-ylmethyl)-5-methylimidazole (Ar=o-CH3OC6H4 ; HET=2-thiazol-4-yl; n=1; and X=5-methylimidazol-1-yl)
To a solution of 82 mg of 4-methylimidazole in 10 ml of tetrahydrofuran at 5° C. was added 50 mg of sodium hydride in 50% oil and the resulting mixture stirred at 5° C. for 20 minutes. 2-(o-Methoxyphenyl)-4-chloromethylthiazole (240 mg) in 5 ml of the same solvent was added and the reation mixture heated at reflux for 2 hours. The reaction mixture was cooled to room temperature and treated with 1 ml of water. The water and solvent were removed in vacuo and the residue dissolved in chloroform. The chloroform solution was washed with a brine solution, dried over sodium sulfate and concentrated to give 250 mg of crude product. The product was obtained by chromatography on 7 g of silica gel (chloroform-methanol), 40:1-v:v), 100 mg.

reactant | 4-methylimidazole | 82 mg | CC=1N=CNC1 | C4H6N2
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 2-(o-Methoxyphenyl)-4-chloromethylthiazole | 240 mg | COC1=C(C=CC=C1)C=1SC=C(N1)CCl | C11H10ClNOS
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2'-[o-Methoxyphenyl]thiazol-4-ylmethyl)-5-methylimidazole | COC1=C(C=CC=C1)C=1SC=C(N1)CN1C=NC=C1C | C15H15N3OS
